US07091227B2
1-(6-Benzyl-2-benzothiazolyl)-3-ethylurea
A suspension of 2-amino-6-benzyl-benzothiazole (0.040 g, 0.17 mmol), triethylamine (0.104 mL, 0.77 mmol, 4.5 eq), and ethyl isocyanate (0.049 mL, 0.64 mmol, 3.8 eq) in 1 mL toluene was heated at about 95° C. for about 16 hours. The precipitate was filtered off, washed with Et2O and MeOH, and dried under vacuum to give the desired compound 0.029 g (56%). LC/MS 312.3 (M+1); LC retention time 2.62 min.

reactant | 2-amino-6-benzyl-benzothiazole | 0.17 mmol, 0.040 g | NC=1SC2=C(N1)C=CC(=C2)CC2=CC=CC=C2 | C14H12N2S
reactant | triethylamine | 0.77 mmol, 0.104 mL, 4.5 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 0.64 mmol, 0.049 mL, 3.8 eq | C(C)N=C=O | C3H5NO
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-Benzyl-2-benzothiazolyl)-3-ethylurea | 0.029 g, 56% | C(C1=CC=CC=C1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C17H17N3OS
